US04585796
5 g of ethyl (E)-5-[(RS)-2-aminopropyl]-β-methyl-2-thiopheneacrylate and 3.7 g of m-(trifluoromethyl)phenylethylene oxide were stirred at 90° for 22 hours in 50 ml of dimethyl sulphoxide. A further 1.23 g of m-(trifluoromethyl)phenylethylene oxide were added and the mixture was heated to 90° for a further 19 hours. The working-up was carried out in analogy to Example 4. Chromatography on silica gel gave ethyl (E)-5-[(RS)-2-[bis-[(RS)-β-hydroxy-m-(trifluoromethyl)phenethyl]amino]propyl]-β-methyl-2-thiopheneacrylate; ε323 =17310.

reactant | ethyl (E)-5-[(RS)-2-aminopropyl]-β-methyl-2-thiopheneacrylate | 5 g | NC(CC1=CC=C(S1)/C(=C/C(=O)OCC)/C)C | C13H19NO2S
reactant | m-(trifluoromethyl)phenylethylene oxide | 3.7 g | FC(C=1C=C(C=CC1)C1CO1)(F)F | C9H7F3O
reactant | m-(trifluoromethyl)phenylethylene oxide | 1.23 g | FC(C=1C=C(C=CC1)C1CO1)(F)F | C9H7F3O
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | ethyl (E)-5-[(RS)-2-[bis-[(RS)-β-hydroxy-m-(trifluoromethyl)phenethyl]amino]propyl]-β-methyl-2-thiopheneacrylate | OC(CN(C(CC1=CC=C(S1)/C(=C/C(=O)OCC)/C)C)CC(C1=CC(=CC=C1)C(F)(F)F)O)C1=CC(=CC=C1)C(F)(F)F | C31H33F6NO4S
